US05667721
A solution of 14.4 ml of 2-(2-bromoethyl)-dioxolane and 20.6 g of (E)-2-but-1-enyl-1,3-propanediol in 200 ml of toluene was heated to slight boiling overnight with 2.7 ml of 10% aqueous sulfuric acid (v/v) and 8 ml of water. The mixture was treated with 6 ml of triethylamine and the aqueous phase was separated. The organic phase was washed with semi-conc. sodium chloride solution, dried over sodium sulfate, filtered and concentrated. The resulting orange oil (31.3 g) was chromatographed on 400 g of silica gel with hexane/ethyl acetate 2.5% (v/v). 23.4 g of (E)-2-(2-bromoethyl)-5-but-1-enyl-1,3-dioxane (GC purity 97.5%, trans/cis ratio 73:27) were obtained as a yellowish oil.

reactant | 2-(2-bromoethyl)-dioxolane | 14.4 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | (E)-2-but-1-enyl-1,3-propanediol | 20.6 g | C(=C\CC)/C(CO)CO | C7H14O2
reactant | sulfuric acid | 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 8 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | (E)-2-(2-bromoethyl)-5-but-1-enyl-1,3-dioxane | 23.4 g | BrCCC1OCC(CO1)\C=C\CC | C10H17BrO2
